US04242518
192 parts of 3-methoxycarbonylmethyl-thiopropionic acid methyl ester are added, in the course of 30 minutes, to a solution of 360 parts of a 30 percent strength by weight NaOCH3 /MeOH solution at 5° C. The resulting solution is stirred for one hour at 5° C. and then poured onto a mixture of 200 parts of concentrated hydrochloric acid and 1,000 parts of finely crushed ice. The oily layer which separates out is removed and the aqueous phase is extracted with three times 100 parts by volume of methylene chloride. The combined organic phases are extracted with three times 100 parts by volume of 5 percent strength by weight NaHCO3 solution, dried with sodium sulfate and evaporated. The residue is distilled under reduced pressure. 140 parts (88% of theory) of 3-hydroxy-dihydrothiophene-2-carboxylic acid methyl ester of boiling point 72°-73° C./0.14 mbar are obtained.

reactant | 3-methoxycarbonylmethyl-thiopropionic acid methyl ester | COC(CCCC(=O)OC)=S | C7H12O3S
reactant | NaOCH3 MeOH | O([Na])C.CO
reactant | hydrochloric acid | Cl | ClH
product | 3-hydroxy-dihydrothiophene-2-carboxylic acid methyl ester | 88% | COC(=O)C1SC=CC1O | C6H8O3S
